### PR TITLE
Proof of interchange_psum using esum

### PR DESCRIPTION
**Pull request by lyonel2017**
##### Motivation for this change

Proof of `interchange_psum` using `esum`. Asked by @affeldt-aist in #2007 

Depends on https://github.com/math-comp/analysis/pull/2062.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: experimental_reals/realsum.v [hunk 1]
```diff
@@ -1104,8 +1104,62 @@ Qed.
...
+
+Lemma interchange_summable  : summable (fun y : U => psum (S^~ y)).
+Proof.
+apply/esum_summableP; rewrite /esum.summable.
+apply: le_lt_trans summable_psum; apply  le_esum.
+- by move=> y _; exact: abse_ge0.
+- by move=> y _; rewrite /comp/= ger0_norm// ge0_psum.
+Qed.
+
+Lemma interchange_psum' :
```
Comment (affeldt-aist) [inline experimental_reals/realsum.v]: We avoid lemmas ending with a "prime" in the MathComp ecosystem.

File: experimental_reals/realsum.v [hunk 2]
```diff
@@ -1104,8 +1104,62 @@ Qed.
...
+Hypothesis H1: (forall x, summable (S x)).
+Hypothesis H2: summable (fun x => PosSum.psum (fun y => S x y)).
+
+Lemma sm_col y :  summable (fun x => `|S x y|).
+Proof.
+apply: (le_summable (F2 := fun x => PosSum.psum (fun y' => S x y'))) => //  x.
+by apply/andP; split; [exact: normr_ge0 | exact: ger1_psum y (H1 x)].
+Qed.
+
+Lemma inner_LHS x : (PosSum.psum (fun y => S x y))%:E = \esum_(y in [set: U]) `|S x y|%:E.
```
Comment (affeldt-aist) [inline experimental_reals/realsum.v]: Such a name is too generic to be global. It could be local or belong to the theory of `PosSum.psum`

File: experimental_reals/realsum.v [hunk 3]
```diff
@@ -1104,8 +1104,62 @@ Qed.
...
 
-#[deprecated(since="1.17.0", note="use `interchange_psum` instead")]
-Notation __admitted__interchange_psum := interchange_psum (only parsing).
+(* -------------------------------------------------------------------- *)
+Section PSumInterchangeEsum.
+Context {R : realType} {T U : choiceType} (S : T -> U -> R).
+Hypothesis H1: (forall x, summable (S x)).
+Hypothesis H2: summable (fun x => PosSum.psum (fun y => S x y)).
+
+Lemma sm_col y :  summable (fun x => `|S x y|).
```
Comment (affeldt-aist) [inline experimental_reals/realsum.v]: I think that we are using `summable` as a substring for identifiers of lemmas using `summable` (the identifier).

File: experimental_reals/realsum.v [hunk 4]
```diff
@@ -1104,8 +1104,62 @@ Qed.
 
 End PSumInterchange.
 
-#[deprecated(since="1.17.0", note="use `interchange_psum` instead")]
-Notation __admitted__interchange_psum := interchange_psum (only parsing).
+(* -------------------------------------------------------------------- *)
+Section PSumInterchangeEsum.
+Context {R : realType} {T U : choiceType} (S : T -> U -> R).
+Hypothesis H1: (forall x, summable (S x)).
```
Comment (affeldt-aist) [inline experimental_reals/realsum.v]:
```suggestion
Hypothesis H1 : forall x, summable (S x).
```

**Review by affeldt-aist — CHANGES_REQUESTED** [review]
Sorry again for the short comments.
Since we already have an issue with the new version of `experimental_reals`
(we broke the compilation of ssprove: https://github.com/SSProve/ssprove/issues/89),
let us postpone this one to the next release.

File: experimental_reals/realsum.v (hunk 1 above)
Comment (lyonel2017) [reply experimental_reals/realsum.v]: I rename the lemma `interchange_psum_alt` until we decided whether to keep this proof (instead of `interchange_psum`, or in addition to `interchange_psum`)

**Comment by affeldt-aist** [comment]
PR #2062 merged -> need rebasing

**Comment by lyonel2017** [comment]
> PR #2062 merged -> need rebasing

I made a rebase.
